US04666923
(a) 6-Isonicotinoylamino-5-nitroindolin-2-one
5.5 g. (21.7 mMol) 6-isonicotinoylaminoindolin-2-one are dissolved portionwise in 20 ml. concentrated sulphuric acid, cooled with ice and 2.19 g. (21.7 mMol) potassium nitrate dissolved in concentrated sulphuric acid slowly added dropwise thereto. After 2 hours, the solution is poured on to ice, neutralised and filtered with suction. The residue is substantially dissolved in 2N hydrochloric acid, filtered, treated with Floridin (fullers' earth), filtered with suction and neutralised. There are obtained 4.5 g. (70% of theory) of the title compound; m.p. >300° C.

reactant | 6-isonicotinoylaminoindolin-2-one | 21.7 mMol | C(C1=CC=NC=C1)(=O)NC1=CC=C2CC(NC2=C1)=O | C14H11N3O2
reactant | potassium nitrate | 21.7 mMol | [N+](=O)([O-])[O-].[K+]
solvent | sulphuric acid | S(O)(O)(=O)=O | H2O4S
product | 6-Isonicotinoylamino-5-nitroindolin-2-one | C(C1=CC=NC=C1)(=O)NC1=C(C=C2CC(NC2=C1)=O)[N+](=O)[O-] | C14H10N4O4
